US07977331B1
To a solution of methyl 3-cyclohexyl-2-[2-(2-hydroxyethoxy)-3-nitrophenyl]-1H-indole-6-carboxylate (11.00 g, 25.1 mmol) and triethylamine (5.25 ml, 37.7 mmol) in chloroform (77 ml) was added dropwise methanesulfonyl chloride (2.33 ml, 30.1 mmol) under ice-cooling, and the mixture was stirred for 30 min. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous ammonium chloride solution, saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure to give methyl 3-cyclohexyl-2-[2-(2-methanesulfonyloxyethoxy)-3-nitrophenyl]1H-indole-6-carboxylate (12.60 g, yield 97%).

reactant | methyl 3-cyclohexyl-2-[2-(2-hydroxyethoxy)-3-nitrophenyl]-1H-indole-6-carboxylate | 25.1 mmol, 11.00 g | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C(=CC=C1)[N+](=O)[O-])OCCO | C24H26N2O6
reactant | triethylamine | 37.7 mmol, 5.25 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 30.1 mmol, 2.33 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 77 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-cyclohexyl-2-[2-(2-methanesulfonyloxyethoxy)-3-nitrophenyl]1H-indole-6-carboxylate | 12.60 g, yield 97% | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C(=CC=C1)[N+](=O)[O-])OCCOS(=O)(=O)C | C25H28N2O8S
